US07557121B2
Preparation 29: 2-Bromo-6-(2,2,2-trifluoroethoxy)pyridine
Sodium hydride (60% dispersion in mineral oil, 0.93 g, 23 mmol) was added to a solution of 2,6-dibromopyridine (5 g, 21 mmol) in N,N-dimethylformamide (10 mL) and the mixture was allowed to stir for 10 minutes. 2,2,2-Trifluoroethanol (2.53 g, 25.2 mmol) was then added and the mixture was heated at 60° C. for 90 minutes. The reaction mixture was then partitioned between water and ethyl acetate and the layers were separated. The organic layer was washed with a further volume of water, dried over magnesium sulfate and concentrated in vacuo to give a liquid residue. Purification of the liquid by column chromatography on silica gel, eluting with petroleum ether (60-80):dichloromethane, 99:1, afforded the title compound as a white liquid in 80% yield, 4.3 g.

reactant | Sodium hydride | 23 mmol, 0.93 g | [H-].[Na+]
reactant | 2,6-dibromopyridine | 21 mmol, 5 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 2,2,2-Trifluoroethanol | 25.2 mmol, 2.53 g | FC(CO)(F)F | C2H3F3O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-Bromo-6-(2,2,2-trifluoroethoxy)pyridine | 80% yield | BrC1=NC(=CC=C1)OCC(F)(F)F | C7H5BrF3NO
